Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
chest pain/STEMI
 
Major Surgical or Invasive Procedure:
cardiac catheterization with drug eluting stent x1 to the left 
anterior descending artery

 
History of Present Illness:
 ___ presents with chest pain that woke him up from sleep at 
0300.  
 intial EKGs in the Ed were concerning from STEMI.  
 Administered. Aspirin / sublingual nitro / and heparin in the 
ED.  
 Rectal exam was normal.  
 Code STEMI called.  
 In the ED initial vitals were: 97.2 62 173/90 16 98% RA  
 -EKG: ST elevations in 1 and avL and depressions in II and III  

 -Labs/studies notable for: Trop negative x 1, Chem 7 wnl  
 -Patient was given:  
 ___ 04:13 PO Aspirin 324 mg  
 ___ 04:23 SL Nitroglycerin SL .4 mg  
 -Vitals on transfer: 64 141/89 14 98% RA  

 
Past Medical History:
PAST MEDICAL HISTORY:  
 1. CARDIAC RISK FACTORS: +dyslipidemia 
 2. CARDIAC HISTORY:  
 - CABG: None  
 - PERCUTANEOUS CORONARY INTERVENTIONS: None  
 - PACING/ICD: None  
 3. OTHER PAST MEDICAL HISTORY:  PMH: 
BPH
Squamous cell and basal cell CA on face
Left severed tendon in hand

 
Social History:
___
Family History:
Mother and father both died of MI at age ___
 
Physical Exam:
Admission:
Gen:  
 Neck/JVD: no JVD or bruit  
 CV: rrr, no M/R/G  
 Chest: clear bilat 
 ABD:  
 Extr: no edema, feet warm and well perfused.  
 Access sites: RRA with no hematoma or ecchymosis. TR band in 
place
 Skin: no open areas, mult basal and SC CA on face with scarring 
and redness  
 Neuro: 

.
Discharge:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
VS: 98.6 100/56 63 NSR 20 97%
Gen: ___ yr old in NAD. Denies CP, SOB, palpitations, dizziness
Lungs: CTAB, no wheezes, crackles, rhonchi
Heart: S1S2 regular, no MRG
Abd: soft, non-tender, BS +
PV: Radial access site is soft with no bleeding or hematoma. 
Radial pulses: 2+,normal CSM to wrist. ___: 2+. No edema
Neuro: Alert and oriented, no focal deficits or asymmetries 
noted
 
Pertinent Results:
ADmission:
___ 04:05AM BLOOD WBC-8.0 RBC-4.86 Hgb-14.4 Hct-44.0 MCV-91 
MCH-29.6 MCHC-32.7 RDW-13.7 RDWSD-45.4 Plt ___
___ 04:05AM BLOOD Neuts-50.9 ___ Monos-9.9 Eos-6.3 
Baso-0.9 Im ___ AbsNeut-4.07 AbsLymp-2.53 AbsMono-0.79 
AbsEos-0.50 AbsBaso-0.07
___ 04:05AM BLOOD Glucose-105* UreaN-13 Creat-0.9 Na-140 
K-3.9 Cl-102 HCO3-25 AnGap-17
___ 04:05AM BLOOD CK(CPK)-80
___ 01:40PM BLOOD CK(CPK)-482*
___ 04:05AM BLOOD CK-MB-2 cTropnT-<0.01
___ 01:40PM BLOOD CK-MB-69* MB Indx-14.3* cTropnT-0.33*
___ 04:05AM BLOOD Cholest-339*
___ 01:40PM BLOOD Triglyc-184* HDL-74 CHOL/HD-4.6 
LDLcalc-228*
.
Discharge:
.
Cath ___:
Coronary Anatomy
Dominance: Right
* Left Main Coronary Artery
The ___ has minimal disease
* Left Anterior Descending
___
MRN: ___
DOB: ___
Procedure Date: ___
Cath Number: ___
___ Brief Preliminary Cardiac 
Catheterization & Endovascular Procedure Note Tel: ___
___ Page 3 of 3 Reported created: ___ 6:36 AM 
Fax: ___
The LAD had a proximal >95% stenosis. Beyond this, there was 
diffuse mid disease to 70% with more
distal 70% and very distal 90% lesions. Thee was TIMI 3 flow.
* Circumflex
The Circumflex has diffuse irregularities with mid disease to 
80%
* Right Coronary Artery
The RCA has difuse mild disease, <50% mid lesion.
Interventional Details
The left main was engaged with a ___ Fr XBLAD 3.5 guide. The LAD 
lesions were crossed with a Prowater
wire and the proximal and more distal lesions were dilated with 
a 2.0 balloon to 20 atm A 2.5x38 Premier
stent would not cross and it was decided to treat only the most 
severe proximal culprit lesion.
This was stented with a 3.0x12 Premier deployed at 18 atm and 
postdilated to 3.0mm at 20 atm with no
residual, normal flow.
Intra-procedural Complications: None
Impressions:
Successful DES of proximal LAD for STEMI
Severe residual mid/distal LAD and LCX disease
Recommendations
Continue aspirin uninterrupted indefinitely; clopidogrel minimum 
___ year, considering indefinite given
severe residual disease.
Medical treatment for residual disease. Could consider PCI of 
most distal severe LAD lersion if
necessary altho it may not be possible to deliver a stent to 
this lesion. Could also consider CABG altho
this would be very suboptimal given diffuse LAD disease.

___ 07:23AM BLOOD WBC-9.7 RBC-4.87 Hgb-14.6 Hct-43.5 MCV-89 
MCH-30.0 MCHC-33.6 RDW-14.0 RDWSD-45.9 Plt ___
___ 06:45AM BLOOD UreaN-10 Creat-0.9 Na-139 K-4.3 Cl-101 
HCO3-26 AnGap-16
___ 06:45AM BLOOD CK-MB-11* cTropnT-1.14*
 
Brief Hospital Course:
___ presents with chest pain that woke him up from sleep at 
0300. Wife brought pt  ___ ED. ECG with STE I and AVL with 
reciprocal lateral changes. In cath lab had 1 DES to LAD, 
diffuse disease after stent not able to be fixed and still has 
80% LCX. Loaded with ticagrelor. Remained  hemodynamically 
stable throughout hospitalization. In addition to Ticagrelor, he 
was started on Atorvastatin 80mg, Metop xl 25 mg and Lisinopril 
2.5 mg. An echocardiogram on the day of discharge showed normal 
LV systolic function. He was seen by ___ and was deemed 
appropriate for home with no services. He was discharged in 
stable condition
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Krill Oil (Omega 3 and 6) (krill-om3-dha-epa-om6-lip-astx) 
1,500-165-67.5 mg oral DAILY 
2. Ascorbic Acid ___ mg PO DAILY 
3. Co Q-10 (coenzyme Q10) 200 mg oral DAILY 

 
Discharge Medications:
1. Ascorbic Acid ___ mg PO DAILY 
2. Aspirin EC 81 mg PO DAILY 
3. Atorvastatin 80 mg PO QPM 
4. Lisinopril 2.5 mg PO DAILY 
5. Nitroglycerin SL 0.3 mg SL Q5MIN:PRN chest pain 
take 1 tab every 5 min, no more than 3 tabs total 
6. TiCAGRELOR 90 mg PO BID 
RX *ticagrelor [BRILINTA] 90 mg one tablet(s) by mouth twice a 
day Disp #*60 Tablet Refills:*11
7. Metoprolol Succinate XL 25 mg PO DAILY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
STEMI s/p ___ 1 to LAD
Hyperlipidemia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
VS: 98.6 100/56 63 NSR 20 97%
Gen: ___ yr old in NAD. Denies CP, SOB, palpitations, dizziness
Lungs: CTAB, no wheezes, crackles, rhonchi
Heart: S1S2 regular, no MRG
Abd: soft, non-tender, BS +
PV: Radial access site is soft with no bleeding or hematoma. 
Radial pulses: 2+,normal CSM to wrist. ___: 2+. No edema
Neuro: Alert and oriented, no focal deficits or asymmetries 
noted
A/P:
Mr. ___ is a ___ yr old man who presented with a STEMI, who 
is now s/p ___ 1 to LAD
#. CAD/STEMI
-Brilinta twice a day for a minimum of one yr
-ASA indefinitely
-cont Metop and Lisinopril
-cont Atorvastatin
-follow up with Dr. ___ rehab
#. Disp
-DC home

 
Discharge Instructions:
It was a pleasure to care for you at ___.
You were admitted with chest pain and a heart attack. A cardiac 
catheterization showed multiple blockages in your left coronary 
artery. One of the blockages was fixed with a drug eluting stent 
but the remaining long blockages will be treated with medicine. 
You also had additional less critical blockages in your right 
artery. 
You will need to take ticagrelor (brillinta) every day without 
fail to decrease the risk of clot formation in your stent and 
causing another heart attack. Do not stop taking aspirin and 
brillinta or miss any doses unless Dr ___ it is OK to do 
so.
An echocardiogram showed that your heart has normal function.  
You will need to have cardiac rehab to help your heart recover 
and help you to start exercising again. Dr ___ will tell you 
when you are ready for this. 
Activity restrictions and care of your wrist site will be 
included in your discharge instructions
 
Followup Instructions:
___